US07211577B2
8) Preparation of 6-(4-fluoro-3-methylphenyl)-2-isobutyl-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one
Following the procedure of Example 1(10), 6-(4-fluoro-3-methylphenyl)-2-isobutyl-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and 1-methylpiperazine were reacted to yield the title compound as a slightly yellow oil (yield: 79.1%).

reactant | 6-(4-fluoro-3-methylphenyl)-2-isobutyl-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | FC1=C(C=C(C=C1)C=1C=C(C(N(N1)CC(C)C)=O)COS(=O)(=O)C)C | C17H21FN2O4S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 6-(4-fluoro-3-methylphenyl)-2-isobutyl-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one | FC1=C(C=C(C=C1)C=1C=C(C(N(N1)CC(C)C)=O)CN1CCN(CC1)C)C | C21H29FN4O
